US09328079B2
To an argon-purged pressure-resistant glass vessel (100 mL) equipped with a magnetic stir bar, RuCl[(R)-daipena][(R)-dm-segphos] (1.6 mg, 1.4 μmol) and KO(t-Bu) (8.0 mg, 0.071 mmol) were added, and the vessel was purged with argon again. To this vessel, a toluene (1.4 mL) solution containing 2-(1-propyl)quinoxaline (238.5 mg, 1.38 mmol) and being degassed by the freeze-pump-thaw technique in advance was added by pressure transfer using a cannula. An operation in which hydrogen was introduced into the pressure-resistant vessel up to 0.8 MPa and then released was repeated 10 times to completely substitute the inside with hydrogen. Then, hydrogen was introduced up to 2.0 MPa, and the vessel was stirred in a water bath at 40° C. for 28 hours. After hydrogen was released, the solution was concentrated under reduced pressure, and the residue was purified through a silica gel short path column (ethyl acetate) to obtain (S)-1,2,3,4-tetrahydro-2-(1-propyl)quinoxaline (235.4 mg, 96%). A result of an analysis conducted by high performance liquid chromatography (column: CHIRALCEL OD-H, mobile phase: hexane:IPA=80:20, 1 mL/min) showed that the optical purity of this product was 99% ee or higher.

reactant | 2-(1-propyl)quinoxaline | 1.38 mmol, 238.5 mg | C(CC)C1=NC2=CC=CC=C2N=C1 | C11H12N2
solvent | toluene | 1.4 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-1,2,3,4-tetrahydro-2-(1-propyl)quinoxaline | 235.4 mg, 96% | C(CC)[C@@H]1NC2=CC=CC=C2NC1 | C11H16N2
